US07683064B2
To Methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one (27 mg, 0.062 mmol), 3-(3-Bromo-2-methyl-phenyl)-7-dimethylamino-1H-quinolin-4-one (22 mg, 0.062 mmol), potassium phosphate (26 mg, 0.12 mmol), 2-(dicyclohexylphoshphino)-2′,4′,6′-tri-i-propyl-1,1′-biphenyl (1.7 mg, 0.0036 mmol), and bis(dibenzylidineacetone)palladium(0) (1.0 mg, 0.0018 mmol) was added 4 mL of degassed 1:3 water/n-butanol. The headspace of the vessel was evacuated and backfilled with argon 4 times. This was heated at 100° C. for 1 hour. This was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by preparative TLC (5% methanol/dichloromethane) to yield 7-Dimethylamino-3-(2-methyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-1H-quinolin-4-one (14 mg, 0.024 mmol). MS (ESI) 591.1 (M+H)+.

reactant | Methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one | 0.062 mmol, 27 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O | C22H29BN4O5
reactant | 3-(3-Bromo-2-methyl-phenyl)-7-dimethylamino-1H-quinolin-4-one | 0.062 mmol, 22 mg | BrC=1C(=C(C=CC1)C1=CNC2=CC(=CC=C2C1=O)N(C)C)C | C18H17BrN2O
reactant | potassium phosphate | 0.12 mmol, 26 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 7-Dimethylamino-3-(2-methyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-1H-quinolin-4-one | 0.024 mmol, 14 mg | CN(C1=CC=C2C(C(=CNC2=C1)C1=C(C(=CC=C1)C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)C)=O)C | C34H34N6O4
